US07666866B2
A. 2-Bromo-N-(tert-butoxycarbonyl)ethylamine
Using the procedure of V. G. Beylin and O. P. Goel, OPPI Briefs, 19, 78-80 (1987), 2-bromoethylamine hydrobromide (100 g, 488 mmol) was stirred with 250 ml water in a 3 liter roundbottom flask, then a solution of di-tert-butyl dicarbonate (54.28 g, 249 mmol) in 600 ml dichloromethane was added. To the resulting two-phase mixture was then added a solution of NaOH (39.04 g, 976 mmol, in 250 ml water) and the mixture was stirred vigorously for 3 h at room temperature. The organic layer was removed and washed once with water, with 0.2 N HCl until the pH of the aqueous layer reached 1, and again with water until the pH of the water reached 6-7. The organic layer was dried over Na2SO4 and concentrated in vacuo to provide the title compound (52.97 g, 95%) as a clear, nearly colorless oil.

reactant | 2-bromoethylamine hydrobromide | 488 mmol, 100 g | Br.BrCCN
reactant | water | 250 ml | O | H2O
reactant | di-tert-butyl dicarbonate | 249 mmol, 54.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 976 mmol, 250 ml, 39.04 g | [OH-].[Na+]
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 2-Bromo-N-(tert-butoxycarbonyl)ethylamine | 52.97 g, 95% | BrC(CN)C(=O)OC(C)(C)C | C7H14BrNO2
